US06359138B1
(RS)-5-methoxy-2,3-dihydro-1H-indole-2-carboxylic acid methyl ester (2.5 g, 12.06 mmol) in THF (130 ml) was added dropwise to a suspension of LiAlH4 in THF (80 ml) at 4° C., and the mixture allowed to stir at RT overnight, and then heated at 65° C. for 4 hr. After cooling, H2O (20 ml) was added cautiously and the mixture stirred 20 min, then filtered and the filtrate extracted with EtOAc (3×50 ml), the extracts were washed with satd. NaCl solution (50 ml), dried (Na2SO4) filtered and evaporated. The crude oil was chromatographed over SiO2 (Merck 230-400 mesh) eluting with CH2Cl2—MeOH (9:1) affording (RS)-(5-methoxy-2,3-dihydro-1H-indol-2-yl)-methanol as a yellow oil (1.41 g, 7.86 mmol, 65%), MS: m/e=179.1 (M+).

reactant | (RS)-5-methoxy-2,3-dihydro-1H-indole-2-carboxylic acid methyl ester | 12.06 mmol, 2.5 g | COC(=O)C1NC2=CC=C(C=C2C1)OC | C11H13NO3
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | H2O | 20 ml | O | H2O
solvent | THF | 130 ml | C1CCOC1 | C4H8O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | (RS)-(5-methoxy-2,3-dihydro-1H-indol-2-yl)-methanol | 7.86 mmol, 1.41 g, 65% | COC=1C=C2CC(NC2=CC1)CO | C10H13NO2
